US09376422B2
Step 3: Synthesis of 3-[benzyl(methyl)amino]-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-(trifluoromethyl)benzamide
To a solution of 3-(benzylamino)-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-(trifluoromethyl)benzamide (100 mg, 0.23 mmol) in DCE (5 ml) was added acetic acid (27 μl, 0.47 mmol) followed by paraformaldehyde (7 mg, 0.23 mmol) after which the reaction was stirred at room temperature for 10 min. Then sodium triacetoxyborohydride (74 mg, 0.35 mmol) was added in one portion and the reaction was stirred at room temperature for 16 h. Further treatment with acetaldehyde (35 mg), sodium triacetoxyborohydride (250 mg) and AcOH (100 ml) was performed. After a further 24 h further acetaldehyde (445 mg) and sodium triacetoxyborohydride (250 mg) were added and the reaction was stirred for a further 3 h. Water (20 ml) was then added to the reaction mixture and the aqueous phase was neutralised by the portionwise addition of NaHCO3. The aqueous phase was extracted with DCM (2×50 ml), then the combined organic phases were washed with brine, dried (Na2SO4) and evaporated. The product was purified using FCC over a 5 g Isolute, eluting with 0-5% MeOH in DCM to afford the title compound as an off-white powder (24 mg, 22%). LC-MS 95%, 4.12 min (7 minute LC-MS method), m/z=444.2, 1H NMR (500 MHz, Chloroform-d) δ 11.10 (br. s, 1H), 7.44 (t, J=7.8 Hz, 1H), 7.38-7.29 (m, 5H), 7.27-7.23 (m, 1H), 7.12 (d, J=7.4 Hz, 1H), 7.04 (t, J=5.6 Hz, 1H), 5.92 (s, 1H), 4.52 (d, J=5.9 Hz, 2H), 4.09 (s, 2H), 2.60 (s, 3H), 2.38 (s, 3H), 2.19 (s, 3H).

reactant | 3-(benzylamino)-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-(trifluoromethyl)benzamide | 0.23 mmol, 100 mg | C(C1=CC=CC=C1)NC=1C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C=CC1)C(F)(F)F | C23H22F3N3O2
reactant | paraformaldehyde | 0.23 mmol, 7 mg | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.35 mmol, 74 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetaldehyde | 35 mg | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 250 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetaldehyde | 445 mg | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 250 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCE | 5 ml | ClCCCl | C2H4Cl2
solvent | Water | 20 ml | O | H2O
solvent | AcOH | 100 ml | CC(=O)O | C2H4O2
solvent | acetic acid | 0.47 mmol, 27 μl | C(C)(=O)O | C2H4O2
product | 3-[benzyl(methyl)amino]-N-[(4,6-dimethyl-2-oxo-1,2-dihydropyridin-3-yl)methyl]-2-(trifluoromethyl)benzamide | 24 mg, 22% | C(C1=CC=CC=C1)N(C=1C(=C(C(=O)NCC=2C(NC(=CC2C)C)=O)C=CC1)C(F)(F)F)C | C24H24F3N3O2
